US08835420B2
Preparation x50: (S)-5-(1-((2,6-Diamino-5-cyanopyrimidin-4-yl)amino)ethyl)-1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-3-yl acetate
Iodobenzene diacetate (0.819 g, 2.54 mmol) was added to a 50 mL pear flask charged with (S)-2,4-diamino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile (1 g, 2.54 mmol) in acetonitrile. The reaction mixture was stirred for 2 hours during which time the color of the mixture turned darker green. NaOH (7.5 eq) was then added. The mixture was purified by preparative HPLC (acid mode, 5% to 25% ACN/water gradient). The product-containing fractions were pooled, neutralized with NaHCO3, and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound as a yellow solid (125 mg, 11%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.34 (d, J=6.57 Hz, 3 H) 2.69-2.80 (m, 2 H) 2.96-3.07 (m, 2 H) 3.15 (s, 2 H) 3.60 (br s, 2 H) 3.70-3.89 (m, 4 H) 5.81-5.92 (m, 1 H) 6.03-6.11 (m, 1 H) 6.34-6.42 (m, 2 H) 6.55 (br s, 2 H) 7.32 (s, 1 H); ESI-MS m/z [M+H]+ calc'd for C21H25N9O3, 452; found 452.

reactant | Iodobenzene diacetate | 2.54 mmol, 0.819 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | (S)-2,4-diamino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 2.54 mmol, 1 g | NC1=NC(=C(C(=N1)N)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCOCC2 | C19H23N9O
reactant | NaOH | 7.5 eq | [OH-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | (S)-5-(1-((2,6-Diamino-5-cyanopyrimidin-4-yl)amino)ethyl)-1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-3-yl acetate | 125 mg, 11% | C(C)(=O)OC1=CN(C=2C1=NC(=C(C2)N2CCOCC2)[C@H](C)NC2=NC(=NC(=C2C#N)N)N)C | C21H25N9O3
